US04954497
To 200 ml of tetrahydrofuran were added metallic magnesium (5.35 g) and 4-bromoveratrole (47.8 g), and the mixture was heated for 3 hours under reflux to prepare a 3,4-dimethoxyphenyl magnesium bromide solution. This solution was added, while stirring, dropwise at temperatures ranging from -50° C. to -60° C. to a solution of 6-chloronicotinic acid chloride (21.2 g) in tetrahydrofuran (200 ml) (the time required for the addition: one hour). The resultant mixture was stirred at the same temperature for 2 hours and 40 minutes, and there was then added 2N hydrochloric acid (100 ml). Precipitating crystals were collected by filtration, washed with water and dried to afford 2-chloro-5-(3,4-dimethoxybenzoyl)pyridine (22.5 g), m.p. 158° to 159° C.

reactant | magnesium | 5.35 g | [Mg] | Mg
reactant | 4-bromoveratrole | 47.8 g | BrC=1C=C(C(=CC1)OC)OC | C8H9BrO2
reactant | 3,4-dimethoxyphenyl magnesium bromide | COC=1C=C(C=CC1OC)[Mg]Br
reactant | 6-chloronicotinic acid chloride | 21.2 g | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-chloro-5-(3,4-dimethoxybenzoyl)pyridine | 22.5 g | ClC1=NC=C(C=C1)C(C1=CC(=C(C=C1)OC)OC)=O | C14H12ClNO3
